US06727264B1
N-(3-{1-[(2S)-3-HYDROXY-2-METHYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using (2R)-3-chloro-2-methyl-1-propanol and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 319.2 (M+H)+.

reactant | (2R)-3-chloro-2-methyl-1-propanol | ClC[C@@H](CO)C | C4H9ClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[(2S)-3-HYDROXY-2-METHYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | OC[C@H](CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C | C19H30N2O2
